US05246915
4.8 Parts of 1-(1,2,3,4-tetrahydro-1-naphthalenyl)-1H-imidazole-5-carboxylic acid are dissolved in 94 parts of warm N,N-dimethylformamide. 0.96 Parts of a sodium hydride dispersion 50% are added portionwise to the thus obtained reaction mixture. Upon complete addition, stirring is continued for 1 hour at room temperature. After the addition of 2.0 parts of 1-chloro-2-methoxyethane, the whole is stirred overnight at 90° C. The reaction mixture is evaporated and the residue is taken up in water. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated, yielding 2.8 parts (46.7%) of (2-methoxyethyl) 1-(1,2,3,4-tetrahydro-1-naphthalenyl)-1H-imidazole-5-carboxylate; mp. 66.8° C. (compound 1.83).

reactant | 1-(1,2,3,4-tetrahydro-1-naphthalenyl)-1H-imidazole-5-carboxylic acid | C1(CCCC2=CC=CC=C12)N1C=NC=C1C(=O)O | C14H14N2O2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-chloro-2-methoxyethane | ClCCOC | C3H7ClO
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | (2-methoxyethyl) 1-(1,2,3,4-tetrahydro-1-naphthalenyl)-1H-imidazole-5-carboxylate | 46.7% | C1(CCCC2=CC=CC=C12)N1C=NC=C1C(=O)OCCOC | C17H20N2O3
